US05872144
1-(2-Chloroethoxy)-2-methyl-3-nitrobenzene
To a solution of 2-methyl-3-nitro-phenol (3.0 g, 19.6 mmol), triphenylphosphine (7.2 g, 27.4 mmol), and chloroethanol (1.89 g, 23.5 mmol) in anhydrous tetrahydrofuran (70 mL) was slowly added a solution of diethylazidodicarboxylate (4.78 g, 27.4 mmol). After 1 h the reaction was complete and the solvent was removed and the residue dissolved in 1:1 ethyl acetate-hexanes (150 mL). After 30 min the solid triphenylphosphine oxide was filtered and the solvent again removed. The crude product was purified by chromatography (20% ethyl acetate-hexanes) to afford 4.2 g (100%) of a light yellow solid: mp 58°-59° C.

reactant | 2-methyl-3-nitro-phenol | 19.6 mmol, 3.0 g | CC1=C(C=CC=C1[N+](=O)[O-])O | C7H7NO3
reactant | triphenylphosphine | 27.4 mmol, 7.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | chloroethanol | 23.5 mmol, 1.89 g | ClC(C)O | C2H5ClO
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
product | 1-(2-Chloroethoxy)-2-methyl-3-nitrobenzene | 4.2 g, 100% | ClCCOC1=C(C(=CC=C1)[N+](=O)[O-])C | C9H10ClNO3
